US07446118B2
To a −78° C. solution of 3-(6-Methoxy-1H-Indol-4-yl)-3-phenyl-propionic acid ethyl ester CXVII (0.39 g, 1.2 mmol) in DCM (10 ml) was added DIBALH (1M in hexane, 4.0 ml, 4.0 mmol). After stirring for 90 minutes at −78° C., more DIBALH (1M in hexane, 1.2 ml, 1.2 mmol) was added. The resulting mixture was stirred for 2.25 hours, after which EtOH (2 ml) and a saturated solution of NaHCO3 (2 ml) were added. The mixture was then stirred at room temperature for 30 min, filtered, and the filter cake was washed with EtOAc. The filtrate was concentrated and washed with a saturated solution of NaHCO3, dried over Na2SO4, filtered, concentrated, and purified via flash chromatography (hexane/EtOAc) affording 3-(6-Methoxy-1H-Indol-4-yl)-3-phenyl-propionaldeyde CXVIII as a colorless syrup (0.27 g, 82% yield).

reactant | 3-(6-Methoxy-1H-Indol-4-yl)-3-phenyl-propionic acid ethyl ester | C(C)OC(CC(C1=CC=CC=C1)C1=C2C=CNC2=CC(=C1)OC)=O | C20H21NO3
reactant | DIBALH | 4.0 mmol, 1M, 4.0 ml | CC(C)C[AlH]CC(C)C
reactant | DIBALH | 1.2 mmol, 1M, 1.2 ml | CC(C)C[AlH]CC(C)C
reactant | EtOH | 2 ml | CCO | C2H6O
reactant | NaHCO3 | 2 ml | C(=O)(O)[O-].[Na+]
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-(6-Methoxy-1H-Indol-4-yl)-3-phenyl-propionaldeyde | COC1=CC(=C2C=CNC2=C1)C(CC=O)C1=CC=CC=C1 | C18H17NO2
